US05026858
A suspension of N-(1-benzylpiperid-4-yl)-2-acetoxy-4-acetamido-5-nitrobenzamide (4.5 g; 0.01 mol) [prepared by the procedure described in Example 1] in ethanol (25 ml), concentrated hydrochloric acid (4.5 ml) and water (50 ml) was boiled under reflux for 2 hours. The mixture was diluted with water, made alkaline with sodium bicarbonate and extracted with chloroform. The organic solution was dried (Na2SO4), the solvent removed in vacuo and the residue triturated with diethyl ether to give a solid which was treated with a saturated solution of hydrogen chloride in ethanol. After crystallization from ethanol, 3 g of N-(1-benzylpiperid-4-yl)-2-hydroxy-4-amino-5-nitrobenzamide hydrochloride were obtained, m.p. 248°-250° C. (dec).

reactant | N-(1-benzylpiperid-4-yl)-2-acetoxy-4-acetamido-5-nitrobenzamide | 0.01 mol, 4.5 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=C(C(=C1)[N+](=O)[O-])NC(C)=O)OC(C)=O)=O | C23H26N4O6
reactant | hydrochloric acid | 4.5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | N-(1-benzylpiperid-4-yl)-2-hydroxy-4-amino-5-nitrobenzamide hydrochloride | 3 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=C(C(=C1)[N+](=O)[O-])N)O)=O | InChI=1S/C19H22N4O4.ClH/c20-16-11-18(24)15(10-17(16)23(26)27)19(25)21-14-6-8-22(9-7-14)12-13-4-2-1-3-5-13;/h1-5,10-11,14,24H,6-9,12,20H2,(H,21,25);1H
